US04734429
1,4-Cyclohexanedione monoethylene ketal (5.00 g) was added to a mixture of sodium hydride (1.40 g of a 60% suspension in mineral oil), 10 ml of ethyl formate, 1 drop of ethanol and 200 ml of tetrahydrofuran. The reaction mixture was heated at reflux for 2.5 hours, cooled and partitioned between water and ethyl ether. The ethereal layer was extracted several times with 0.5N sodium hydroxide and the combined aqueous portions were washed once with ether. The aqueous solution was acidified slowly to a pH of 4 with 5N hydrochloric acid and the slurry was exhaustively extracted with dichloromethane. The combined extracts were dried over magnesium sulfate and concentrated in vacuo to provide a dark oil. The oil was distilled bulb-to-bulb (120° C./lmm) to afford 7-(hydroxymethylene)-1,4-dioxaspiro-[4.5]decan-8-one as a colorless oil.

reactant | 1,4-Cyclohexanedione monoethylene ketal | 5.00 g | C1COC2(CCC(CC2)=O)O1 | C8H12O3
reactant | sodium hydride | [H-].[Na+]
reactant | ethyl formate | 10 ml | C(=O)OCC | C3H6O2
catalyst | ethanol | 1 drop | C(C)O | C2H6O
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | 7-(hydroxymethylene)-1,4-dioxaspiro-[4.5]decan-8-one | OC=C1CC2(OCCO2)CCC1=O | C9H12O4
